US05591752
2-(Quinolin-2-yl)methoxy-11-(tetrazol-5-yl)methylthio-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 131)
11-Cyanomethylthio-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine, ammonium chloride and sodium azide were used and reacted in the same manner as in Example 32 to obtain the title compound.

reactant | 11-Cyanomethylthio-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(#N)CSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=CC=C3C=C2 | C26H20N2O2S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 2-(Quinolin-2-yl)methoxy-11-(tetrazol-5-yl)methylthio-6,11-dihydrodibenz[b,e]oxepine | N1=C(C=CC2=CC=CC=C12)COC1=CC2=C(OCC3=C(C2SCC2=NN=NN2)C=CC=C3)C=C1 | C26H21N5O2S
